US06903126B2
6-[[1-(4-Methylphenyl)-2-phenylamino-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester
250 mg of 6-[3-(4-methylphenyl)-4-aminophenyl]oxyhexanoic acid methyl ester was dissolved in 1 ml of 1,2-dichloroethane, the solution was mixed with 0.1 ml of phenylisocyanide dichloride, and the mixture was heated for 8 hours to 65° C. After cooling, it was mixed with water, extracted three times with ethyl acetate, the combined organic phases were washed with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was crystallized from a mixture that consists of ethyl acetate and diethyl ether. 147 mg was obtained.

reactant | 6-[3-(4-methylphenyl)-4-aminophenyl]oxyhexanoic acid methyl ester | 250 mg | COC(CCCCCOC1=CC(=C(C=C1)N)C1=CC=C(C=C1)C)=O | C20H25NO3
reactant | phenylisocyanide dichloride | 0.1 ml | C1=CC=C(C=C1)N=C(Cl)Cl | C7H5Cl2N
reactant | water | O | H2O
reactant | 1,2-dichloroethane | 1 ml | ClCCCl | C2H4Cl2
product | 6-[[1-(4-Methylphenyl)-2-phenylamino-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C=CC2=C(N(C(=N2)NC2=CC=CC=C2)C2=CC=C(C=C2)C)C1)=O | C27H29N3O3
